US04584290
To an ice-cooled solution of 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(5-nitro-2-pyridyl)thiovinyl]-3-cephem-4-carboxylic acid (syn isomer) (trans isomer) (1.35 g) in an aqueous solution of sodium bicarbonate (30 ml) was added sodium hydrosulfite (4.05 g) under stirring. The mixture was stirred for 30 minutes at room temperature and cooled in an ice-bath and acidified to pH 3.5 with 10% hydrochloric acid. The precipitate was collected, washed and dried to give 1.05 g of 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(5-amino-2-pyridyl)thiovinyl)-3-cephem-4-carboxylic acid (syn isomer) (trans isomer).

reactant | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(5-nitro-2-pyridyl)thiovinyl]-3-cephem-4-carboxylic acid | 1.35 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CSC2=NC=C(C=C2)[N+](=O)[O-])C(=O)O)C1=O)C1=NSC(=N1)N | C20H18N8O7S3
reactant | sodium hydrosulfite | 4.05 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
product | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(5-amino-2-pyridyl)thiovinyl)-3-cephem-4-carboxylic acid | 1.05 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CSC2=NC=C(C=C2)N)C(=O)O)C1=O)C1=NSC(=N1)N | C20H20N8O5S3
